US04780477
By using isatin and the 2-(N-isopropylbenzylamino)ethyl chloride, a method analogous to that described in Reference Example 7 was carried out, and the reaction product was purified with silica gel column chromatography (eluent: chloroform) to obtain 1-[2-(N-isopropylbenzylamino)ethyl]isatin in an oil (yield: 43.4%).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2-(N-isopropylbenzylamino)ethyl chloride | C(C)(C)N(CCCl)CC1=CC=CC=C1 | C12H18ClN
product | 1-[2-(N-isopropylbenzylamino)ethyl]isatin | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)CC1=CC=CC=C1 | C20H22N2O2
